US04586951
23.3 g of 2-biphenylylsulfonamide, 10.9. g of n-butyl isocyanate, a catalytic amount of 1,4-diazabicyclo[2,2,2]-octane and 180 ml of chlorobenzene were refluxed with stirring for 2 hours. Then, phosgene in a slight excess of the theroretical amount was blown through the reaction mixture over 2 hours while maintaining the internal temperature at 115°-120° C. At this time, any unreacted phosgene escaping from the reaction system was trapped in a dry ice trap and returned to the reactor. After addition of the phosgene, the reaction mixture was further stirred at the reflux temperature for a short time to complete the reaction. The mixture was cooled, and if necessary, it was filtered under reduced pressure to remove the insoluble matter. It was then concentrated under reduced pressure, to obtain 20.0 g of 2-biphenylylsulfanylisocyanate, B.p 135°-137° C./0.7-0.8 mmHg.

reactant | 2-biphenylylsulfonamide | 23.3 g | C1(=C(C=CC=C1)S(=O)(=O)N)C1=CC=CC=C1 | C12H11NO2S
reactant | n-butyl isocyanate | C(CCC)N=C=O | C5H9NO
reactant | 1,4-diazabicyclo[2,2,2]-octane | N12CCN(CC1)CC2 | C6H12N2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | chlorobenzene | 180 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-biphenylylsulfanylisocyanate | 20.0 g | C1(=C(C=CC=C1)SN=C=O)C1=CC=CC=C1 | C13H9NOS
